US07435837B2
(±)-{[7-(2,5-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.064 g, 62%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2,5-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.135 g, 0.31 mmol) and methylamine (0.096 g, 3.1 mmol). mp 202-204° C.

reactant | (±)-{[7-(2,5-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.31 mmol, 0.135 g | CC1=C(C=C(C=C1)C)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C25H26O5S
reactant | methylamine | 3.1 mmol, 0.096 g | CN | CH5N
product | (±)-{[7-(2,5-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | CC1=C(C=C(C=C1)C)C1=CC(=CC=2CC(OC21)CNC)OC | C19H23NO2
